US04764617
Preparation of N-[1-(4-methoxyphenyl)-3-piperidinopropyl]quinaldinamide
The procedure of Example 1 was repeated using 745 mg (3.0 mmol.) of 1-[3-amino-3-(4-methoxyphenyl)propyl]piperidine and 575 mg (3.0 mmol.) of quinaldinoyl chloride, to obtain 1.03 g (yield: 85%) of the subject compound as a pale yellow oily product.

reactant | 1-[3-amino-3-(4-methoxyphenyl)propyl]piperidine | 3.0 mmol, 745 mg | NC(CCN1CCCCC1)C1=CC=C(C=C1)OC | C15H24N2O
reactant | quinaldinoyl chloride | 3.0 mmol, 575 mg | N1=C(CC(=O)Cl)C=CC2=CC=CC=C12 | C11H8ClNO
product | N-[1-(4-methoxyphenyl)-3-piperidinopropyl]quinaldinamide | 1.03 g, yield: 85% | COC1=CC=C(C=C1)C(CCN1CCCCC1)NC(=O)CC1=NC2=CC=CC=C2C=C1 | C26H31N3O2
